US05169848
Synthesis of 2-tert.-butyl-4-chloro-5-[4-(2-chloro-3,3,3-trifluoro-prop-1-enyl)-benzyl-thio]-3(2H)-pyridazinone [Compound 10]
1.2 g of 4-(2-chloro-3,3,3-trifluoroprop-1-enyl)-benzyl bromide and 0.8 g of 2-tert.-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone are added to a suspension of 0.7 g of potassium carbonate in 10 cc of dimethylformamide.

reactant | 4-(2-chloro-3,3,3-trifluoroprop-1-enyl)-benzyl bromide | 1.2 g | ClC(=CC1=CC=C(CBr)C=C1)C(F)(F)F | C10H7BrClF3
reactant | 2-tert.-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 0.8 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | 2-tert.-butyl-4-chloro-5-[4-(2-chloro-3,3,3-trifluoro-prop-1-enyl)-benzyl-thio]-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)C=C(C(F)(F)F)Cl | C18H17Cl2F3N2OS
